US06180627B2
3-[(Methylamino)methyl]phenylmethanol
A stirred solution of methyl 3-[(methylamino)carbonyl]benzoate (preparation 11) (5.0 g, 20.7 mmol) in THF (120 ml) was treated dropwise with a solution of lithium aluminum hydride (1M, 30 ml,30 mmol) in THF. The resultant slurry was stirred under reflux overnight, cooled and treated with water (1.1 ml), 15%NaOH (1.8 ml) and water (2.5 ml). The resultant gel was removed by filtration, the liquors concentrated in vacuo and taken up in ethyl acetate (120 ml). The organic layer was washed with sat aq brine (100 ml) and dried over MgSO4. Removal of the drying agent by filtration followed by evaporation of the solvent gave an oil which was purified by chromatography (SiO2, gradient elution with CH2Cl2; 95:5 CH2Cl2:MeOH; 90:10 CH2Cl2:MeOH; 90:10:1 CH2Cl2:MeOH:NH3; 85:15:1 CH2Cl2:MeOH:NH3). The second eluted material proved to be the correct product (2.9 g, 69%,). 1H NMR (CDCl3) δ 2.20 (s, 2H), 2.40 (s, 3H), 3.70 (s, 2H), 4.60 (s, 2H), 7.20-7.40 (m, 4H). LRMS m/z=152.4 (M+1)+.

reactant | methyl 3-[(methylamino)carbonyl]benzoate | 20.7 mmol, 5.0 g | CNC(=O)C=1C=C(C(=O)OC)C=CC1 | C10H11NO3
reactant | lithium aluminum hydride | 30 mmol, 1M, 30 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1.1 ml | O | H2O
reactant | NaOH | 1.8 ml | [OH-].[Na+]
reactant | water | 2.5 ml | O | H2O
solvent | THF | 120 ml | C1CCOC1 | C4H8O
product | 3-[(Methylamino)methyl]phenylmethanol | CNCC=1C=C(C=CC1)CO | C9H13NO
